US07220856B2
Preparation of 4-(2-Amino-7-chloro-4-quinolinyl)-N-[2-[(4-fluorophenyl)amino]-2-oxoethyl]-1-piperazinecarboxamide
As described for example 171, [[[4-(2-amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]-acetic acid, 4-fluorophenylaniline, iPr2NE, HATU, are reacted to afford the product. LC-MS: 456 (M++1). 1H NMR (CDCl3): δ 3.05–3.3 (m, 4H), 3.6–3.8 (m, 4H), 4.0–4.2 (m, 2H), 4.65–4.9 (s, 2H), 6.1–6.2 (s, 1H), 7.0–7.1 (m, 2H), 7.2 (m, 1H), 7.3 (m, 2H), 7.6–7.7 (s, 1H), 7.7–7.8 (m, 1H), 8.6–8.7 (s, 1H).

reactant | [[[4-(2-amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]-acetic acid | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)NCC(=O)O)Cl | C16H18ClN5O3
reactant | 4-fluorophenylaniline | FC1=CC=C(C=C1)NC1=CC=CC=C1 | C12H10FN
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
product | 4-(2-Amino-7-chloro-4-quinolinyl)-N-[2-[(4-fluorophenyl)amino]-2-oxoethyl]-1-piperazinecarboxamide | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)NCC(=O)NC1=CC=C(C=C1)F)Cl | C22H22ClFN6O2
